US07482456B2
Step 1: 3-[4-(methylthio)phenyl]thiophene
Prepared according to the procedure Coupling-1 using [4-(methylthio)phenyl]boronic acid and 3-bromothiophene as starting material. Flash chromatography (CH2Cl2) afforded the title compound.

reactant | [4-(methylthio)phenyl]boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[4-(methylthio)phenyl]thiophene | CSC1=CC=C(C=C1)C1=CSC=C1 | C11H10S2
